US05189054
Preparation of 3-[(o-fluorophenacyl)methylamino]-2-carboxy-4,6-dichloroindole
Mix 3-[(o-fluorophenacyl)methylamino]-2-carbethoxy-4,6-dichloroindole (600 mg, 1.47 mmol), lithium hydroxide (184 mg, 4.4 mmol), tetrahydrofuran (10 mL) and water (10 mL). Stir for 24 hours at room temperature. Dilute with ethyl acetate (40 mL). Acidify while stirring and separate the layers. Dry the organic phase over magnesium sulfate, filter and concentrate in vacuo. Recrystallize the residue (ethyl acetate/hexane) to yield the title compound as a white powder (480 mg, 86%).

reactant | 3-[(o-fluorophenacyl)methylamino]-2-carbethoxy-4,6-dichloroindole | 1.47 mmol, 600 mg | FC1=C(C(CCNC2=C(NC3=CC(=CC(=C23)Cl)Cl)C(=O)OCC)=O)C=CC=C1 | C20H17Cl2FN2O3
reactant | lithium hydroxide | 4.4 mmol, 184 mg | [OH-].[Li+]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | water | 10 mL | O | H2O
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | 3-[(o-fluorophenacyl)methylamino]-2-carboxy-4,6-dichloroindole | 480 mg, 86% | FC1=C(C(CCNC2=C(NC3=CC(=CC(=C23)Cl)Cl)C(=O)O)=O)C=CC=C1 | C18H13Cl2FN2O3
